US20010049445A1
reacting methyl (E)-4-bromo-3-methoxy-pent-2-enoate with benzamide to give methyl 2-(5-methyl-2-phenyl-4-oxazolyl)acetate,

reactant | methyl (E)-4-bromo-3-methoxy-pent-2-enoate | BrC(\C(=C/C(=O)OC)\OC)C | C7H11BrO3
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
product | methyl 2-(5-methyl-2-phenyl-4-oxazolyl)acetate | CC1=C(N=C(O1)C1=CC=CC=C1)CC(=O)OC | C13H13NO3
